US08242145B2
Step 1: (3-{4-Bromo-2-[((1S,2R)-2-hydroxy-indan-1-ylamino)-methyl]-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 45, Step 3, using the following starting materials: [3-(4-bromo-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and (1S,2R)-(−)-cis-1-amino-2-indanol.

reactant | [3-(4-bromo-2-formyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)C=O)=O | C18H17BrO5
reactant | (1S,2R)-(−)-cis-1-amino-2-indanol | C1[C@H]([C@H](C2=CC=CC=C21)N)O | C9H11NO
product | (3-{4-Bromo-2-[((1S,2R)-2-hydroxy-indan-1-ylamino)-methyl]-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CN[C@@H]1[C@@H](CC2=CC=CC=C12)O)=O | C27H28BrNO5
